* source PROJECT CIRCUIT
V_V12         0 N08907 10Vdc
R_R2         N02321 N02359  10k  
V_V11         N03332 0 10Vdc
C_C3         0 N02359  10n  
V_V9         0 N03101 10Vdc
V_V10         0 N06321 10Vdc
R_R3         N03421 N03491  10k  
V_V7         N091610 0 10Vdc
R_R6         0 N02568  10k  
R_R5         N02629 N03421  10k  
C_C4         N02321 N02568  1n  
R_R4         N02875 N03421  10k  
V_V8         N03786 0 10Vdc
X_U5         N02359 N02875 N091610 N03101 N02875 LM741
X_U6         0 N03421 N03786 N08907 N03491 LM741
X_U7         N02568 N02629 N03332 N06321 N02629 LM741
V_V13         N02321 0 DC 0Vdc AC 1Vac 
